US06734200B1
5(S)-Isoxazol-3-ylaminomethyl-3-(3-fluoro-4-(3,6-dihydro-(2H)-pyran-4-yl)phenyl)oxazolidin -2-one
To a stirred solution of 3-(2,2,2-trichloroethyloxycarbonylamino)isoxazole (631 mg, 2.43 mmol) in dry N,N-dimethylformamide (10 ml), under a nitrogen atmosphere was added a suspension of sodium hydride (107 mg of a 60% dispersion in oil, 2.67mmol) in hexane followed by 5(R)-methanesulfonyloxymethyl-3-(3-fluoro-4-(3,6-dihydro-(2H)-pyran-4-yl)phenyl)oxazolidin-2-one (see WO 97/09328; 226 mg, 0.61 mmol) in dry DMF (3 ml). Over a period of 24 hours further batches of sodium hydride totalling (428 mg of a 60% dispersion in oil, 10.7 mmol), were added and the reaction mixture heated to 50-60° C. for 24 h, after which time TLC indicated the formation, of the desired product (Rf 0.34, 50% ethyl acetate/hexane). The majority of the N,N-dimethylformamide was evaporated under hi-vacuum and the product isolated by MPLC (50%THF/Hexane) and then triturated with ether to yield the title compound as a white amorphous solid (63.4 mg, 29%). NMR: 2.42 (m, 2H), 3.45 (m, 2H), 3.81 (m, 3H), 4.15 (t, 1H), 4.21 (d, 2H), 4.90 (m, 1H), 6.01 (d, 1H), 6.09 (m, 1H), 6.53 (t, 1H), 7.31 (dd, 1H), 7.40 (t, 1H), 7.48 (dd, 1H), 8.39 (d, 1H); m/z: ES+ (M+H)=360.

reactant | 3-(2,2,2-trichloroethyloxycarbonylamino)isoxazole | 2.43 mmol, 631 mg | ClC(COC(=O)NC1=NOC=C1)(Cl)Cl | C6H5Cl3N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 5(R)-methanesulfonyloxymethyl-3-(3-fluoro-4-(3,6-dihydro-(2H)-pyran-4-yl)phenyl)oxazolidin-2-one | 0.61 mmol, 226 mg | CS(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1CCOCC1)F | C16H18FNO6S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5(S)-Isoxazol-3-ylaminomethyl-3-(3-fluoro-4-(3,6-dihydro-(2H)-pyran-4-yl)phenyl)oxazolidin -2-one | 50% | O1N=C(C=C1)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1CCOCC1)F | C18H18FN3O4
